US07622463B2
Method I: 8-Chloro-6-Cyclopentyl-4,4-dimethyl-5,6-dihydro-4H-2,3,6,7,9,10b-hexaazabenzo[e]azulene
2-Chloro-9-cyclopentyl-8,9-dihydro-7,7-dimethyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one (0.21 g, 0.73 mmol) in phosphorus oxychloride (6 ml) was heated at 110° C. for 4 hours. The reaction mixture was concentrated in vacuo and redissolved in dichloromethane (4 ml). This latest solution was then added dropwise to a 1M solution of hydrazine in tetrahydrofuran (7.27 ml, 7.27 mmol). The reaction mixture was stirred overnight at room temperature. A saturated solution of NaHCO3 was added and the mixture was extracted with ethyl acetate. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The resulting mixture was dissolved in trimethylorthoformate (4 ml) and heated to 110° C. for 90 minutes. The reactionnel mixture was evaporated in vacuo and purified by silica gel chromatography eluting with ethyl acetate to give the title compound as an off-white solid (0.16 g, 69% yield). NMR DMSO D6 1.37 (6H, s), 1.52-1.88 (8H, m), 3.44 (2H, s), 5.23 (1H, quint.), 8.56 (1H, s), 9.02 (1H, s); MS (ES+) 319.

reactant | 2-Chloro-9-cyclopentyl-8,9-dihydro-7,7-dimethyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 0.73 mmol, 0.21 g | ClC=1N=CC2=C(N(CC(C(N2)=O)(C)C)C2CCCC2)N1 | C14H19ClN4O
reactant | hydrazine | NN | H4N2
reactant | tetrahydrofuran | 7.27 mmol, 7.27 ml | O1CCCC1 | C4H8O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | phosphorus oxychloride | 6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-Chloro-6-Cyclopentyl-4,4-dimethyl-5,6-dihydro-4H-2,3,6,7,9,10b-hexaazabenzo[e]azulene | 0.16 g, 69% yield | ClC1=NC2=C(N3C=NN=C3C(CN2C2CCCC2)(C)C)C=N1 | C15H19ClN6
